US03975443
1-(1-Formylaminomethylcyclohexyl)-4-methylpiperazine
Formic acid (6.9 g, 0.15 mole) and acetic anhydride (15.3 g, 0.15 mole) were mixed without cooling and kept at room temperature for 1 hr. 1-(1-aminomethylcyclohexyl)-4-methylpiperazine (8.4 g, 0.04 mole) was dissolved in formic acid (12 ml) and the formylating mixture (16 ml) added. This produced vigorous effervescence and a rise in temperature to 70°. The mixture was left at room temperature for 2 hr. and then heated on a water bath at 55° for 0.75 hr. The solvents were removed under reduced pressure yielding a viscous brown oil (6.0 g, 66.3%) which crystallised as colourless plates of 1-(1-formylaminomethylcyclohexyl)-4-methylpiperazine from light petroleum (b.p. 80°-100°), m.p. 97°-98°.

reactant | acetic anhydride | 0.15 mole, 15.3 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(1-aminomethylcyclohexyl)-4-methylpiperazine | 0.04 mole, 8.4 g | NCC1(CCCCC1)N1CCN(CC1)C | C12H25N3
solvent | formic acid | 12 ml | C(=O)O | CH2O2
solvent | Formic acid | 0.15 mole, 6.9 g | C(=O)O | CH2O2
product | 1-(1-Formylaminomethylcyclohexyl)-4-methylpiperazine | 6.0 g, 66.3% | C(=O)NCC1(CCCCC1)N1CCN(CC1)C | C13H25N3O
